US04968804
EXAMPLE 4: 4,4'-diamidino-2,2'-bipyridine dihydrochloride
0.5 m of 1.1N sodium methoxide in absolute methanol is added to a suspension of 1.2 g (0.0058 mol) of 4,4'-dicyano-2,2'-bipyridine in 48 ml of absolute methanol and the whole is boiled for 5 hours under reflux. 0.05 M of glacial acetic acid, 0.72 g (0.0134 mol) of ammonium chloride and 10 ml of 4.6N methanolic ammonia solution are then added to the solution while it is still warm and the whole is boiled for a further one hour. The cooled reaction mixture is concentrated by evaporation, taken up in 60 ml of 0.1N hydrochloric acid, filtered and applied to a column of 250 ml of Amberlite® ER 180 adsorber resin. Washing is effected with distilled water and 5 ml fractions are collected. Fractions 14-21 are combined and concentrated by evaporation and the residue is crystallised from a small amount of water to give the title compound; m.p. >280°.

reactant | sodium methoxide | 1.1N | C[O-].[Na+]
reactant | 4,4'-dicyano-2,2'-bipyridine | 0.0058 mol, 1.2 g | C(#N)C1=CC(=NC=C1)C1=NC=CC(=C1)C#N | C12H6N4
reactant | ammonium chloride | 0.0134 mol, 0.72 g | [Cl-].[NH4+]
reactant | ammonia | 4.6N, 10 ml | N | H3N
solvent | methanol | CO | CH4O
solvent | methanol | 48 ml | CO | CH4O
solvent | acetic acid | 0.05 M | C(C)(=O)O | C2H4O2
product | 4,4'-diamidino-2,2'-bipyridine dihydrochloride | Cl.Cl.C(N)(=N)C1=CC(=NC=C1)C1=NC=CC(=C1)C(N)=N | InChI=1S/C12H12N6.2ClH/c13-11(14)7-1-3-17-9(5-7)10-6-8(12(15)16)2-4-18-10;;/h1-6H,(H3,13,14)(H3,15,16);2*1H
